US04127570
Cyclohexanone (49 g), malonic acid (52 g), and ammonium acetate (77 g) were heated at reflux for six hours in 95% ethanol (150 ml.). The solution was allowed to cool, the crude product (47 g) collected by filtration and recrystallised from 95% ethanol to yield (1-aminocyclohexyl) acetic acid [(40 g) m.p. 240° C.: (found C, 61.0; H, 9.7; N, 8.9; C8H15NO2 requires C, 61:1; H, 9.6; N, 8.9%) n.m.r. δppm (D2O) 1.5-1.8 (b.s., 10H), 2.5 (s, 2H), i.r.νmax (mull) 2150 cm-1 (s, -NH3(+) overtone), 1610 and 1495 cm-1 (s,s, - NH3(+), 1560 cm-1 (b.s. -CO2(-))].

reactant | Cyclohexanone | 49 g | C1(CCCCC1)=O | C6H10O
reactant | malonic acid | 52 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 77 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (1-aminocyclohexyl) acetic acid | NC1(CCCCC1)CC(=O)O | C8H15NO2
